US09302988B2
Step 1: 3-(4-Chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid
To a solution of ethyl 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate [for synthesis see ACI-02] (2.0 g, 7.58 mmol) in dry THF (26 mL) and MeOH (26 mL) was added aqueous 6 M NaOH (25.3 mL, 152 mol) and the mixture was stirred at reflux for 3 h. The organic solvents were evaporated and the remainder was acidified with aqueous 6 M HCl (30 mL) at 0° C. The resulting mixture was extracted with EtOAc (2×100 mL). The combined organic layers were dried (Na2SO4) and concentrated to yield the desired product 1.71 g, 96%).

reactant | ethyl 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 7.58 mmol, 2.0 g | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)OCC | C14H14ClNO2
reactant | NaOH | 152 mol, 6 M, 25.3 mL | [OH-].[Na+]
solvent | THF | 26 mL | C1CCOC1 | C4H8O
solvent | MeOH | 26 mL | CO | CH4O
product | 3-(4-Chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid | 1.71 g, 96% | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)O | C12H10ClNO2
